US04244867
8-Chloro-6-(2-fluorophenyl)-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide
A mixture of 3 g (7.1 mmole) of 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine 4-oxide, 0.6 g (20 mmole) of paraformaldehyde, 100 ml of ethanol and 250 mg of paratoluene sulfonic acid hydrate was heated to reflux for 16 hours. The crude product obtained after the usual workup was chromatographed over 60 g of silica gel using 5% (v/v) of ethanol in methylene chloride for elution. The clean fractions of product were combined and evaporated. The residue was crystallized from ether and recrystallized from ethyl acetate/hexane for analysis to yield end product as yellow crystals with mp 200°-203° C.

reactant | 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine 4-oxide | 7.1 mmole, 3 g | ClC=1C=CC2=C(C(=[N+](CC(N2)C(=NO)N2CCOCC2)[O-])C2=C(C=CC=C2)F)C1 | C20H20ClFN4O3
reactant | paraformaldehyde | 20 mmole, 0.6 g | C=O | CH2O
reactant | paratoluene sulfonic acid hydrate | 250 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-Chloro-6-(2-fluorophenyl)-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide | ClC=1C=CC2=C(C(=[N+](CC=3N2C=NC3N3CCOCC3)[O-])C3=C(C=CC=C3)F)C1 | C21H18ClFN4O2
